US07067517B2
Methyl-phenyl-carbamic acid 4-(3,3-dimethyl-butylcarbamoyl)-phenyl ester
The title product was prepared from 4-(methyl-phenyl-carbamoyloxy)-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester and 3,3-dimethylbutylamine. The crude product was used without further purification (88%, oil). HPLC-MS: m/z=355.1 (M+1); Rt: 3.10 min.

reactant | 4-(methyl-phenyl-carbamoyloxy)-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester | O=C1N(C(CC1)=O)OC(C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O)=O | C19H16N2O6
reactant | 3,3-dimethylbutylamine | CC(CCN)(C)C | C6H15N
product | Methyl-phenyl-carbamic acid 4-(3,3-dimethyl-butylcarbamoyl)-phenyl ester | CC(CCNC(=O)C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O)(C)C | C21H26N2O3
